US05550147
A mixture of 3-(difluoromethyl)-1-(4-methoxyphenyl) -5-[4-(methylthio)phenyl]pyrazole (1 g) and m-chloroperbenzoic acid (0.56 g) in dichloromethane (23 ml) was stirred at ambient temperature for 1 hour. The mixture was washed with an aqueous solution of sodium bicarbonate, dried over magnesium sulfate, and concentrated. The oily residue was crystallized from ethanol to give crystals of 3-(difluoromethyl)-1-(4-methoxyphenyl)-5-[4-(methylsulfinyl)phenyl]pyrazole (0.82 g).

reactant | 3-(difluoromethyl)-1-(4-methoxyphenyl) -5-[4-(methylthio)phenyl]pyrazole | 1 g | FC(C1=NN(C(=C1)C1=CC=C(C=C1)SC)C1=CC=C(C=C1)OC)F | C18H16F2N2OS
reactant | m-chloroperbenzoic acid | 0.56 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 23 ml | ClCCl | CH2Cl2
product | 3-(difluoromethyl)-1-(4-methoxyphenyl)-5-[4-(methylsulfinyl)phenyl]pyrazole | 0.82 g | FC(C1=NN(C(=C1)C1=CC=C(C=C1)S(=O)C)C1=CC=C(C=C1)OC)F | C18H16F2N2O2S
